US05767131
1,4-Dihydro-4-(4-methyloxyphenyl)-5-methoxycarbonyl-6-methyl-2-propylpyridine-3-carboxylic acid.
A mixture of 2-cyanoethyl 3-oxohexanoate (11.9 mmol), methyl 3-aminocrotonate (11.9 mmol), and 4-methoxybenzaldehyde in 25 mL of isopropanol is heated at reflux temperature for 16 h, cooled, and the solvent is removed under reduced pressure. The residue is dissolved in 15 mL of dioxane and 626 mg of NaOH in 15 mL of water is added to the reaction mixture. After 0.5 hrs, the solution is concentrated to a small volume under reduced pressure, partitioned between 50 mL of water and 50 mL of ethyl acetate, separated, and the aqueous solution is washed with 2×20 mL of ethyl acetate. The organic solutions are discarded. The aqueous extract is acidified with concentrated HCl (pH=2), and the precipitated oil is extracted with ethyl acetate (2×40 mL). The combined organic extracts are dried (MgSO4), and the solvent is removed in vacua to give a residue, which is characterized spectroscopically.

reactant | 2-cyanoethyl 3-oxohexanoate | 11.9 mmol | O=C(CC(=O)OCCC#N)CCC | C9H13NO3
reactant | methyl 3-aminocrotonate | 11.9 mmol | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 1,4-Dihydro-4-(4-methyloxyphenyl)-5-methoxycarbonyl-6-methyl-2-propylpyridine-3-carboxylic acid | COC1=CC=C(C=C1)C1C(=C(NC(=C1C(=O)OC)C)CCC)C(=O)O | C19H23NO5
